US07534829B2
Into a 3-L separable flask equipped with a stirrer and a condenser, 1200 g of isopropanol was introduced. Then 4.6 g of sodium was added and heated to 80° C. to dissolve. After complete dissolution of the sodium, 300 g of glycidol was dropped at 80° C. over 1 hour. After completion of the dropping, stirring was conducted for 3 hours. Then the stirring was stopped and the mixture was cooled to room temperature. At this time, the mixture separated into an upper layer and a lower layer. The upper layer was isolated and concentrated by an evaporator. Furthermore, 3-isopropoxy-1,2-propanediol (boiling point: 60° C./2 mmHg) was obtained through distillation under reduced pressure. 3-Isopropoxy-1,2-propanediol thus obtained is a model compound in the case where one molecule of glycidol reacted with a hydroxyl group of EVOH.

reactant | sodium | 4.6 g | [Na] | Na
reactant | glycidol | 300 g | C1C(O1)CO | C3H6O2
reactant | isopropanol | 1200 g | C(C)(C)O | C3H8O
product | 3-isopropoxy-1,2-propanediol | C(C)(C)OCC(CO)O | C6H14O3
